US07968540B2
Step C. 1,2,2a,5-Tetrahydropyrrolo[4,3,2-de]quinolin-4(3H)-one, enantiomer B
To a stirred solution of ethyl (4-nitro-2,3-dihydro-1H-indol-3-yl)acetate, enantiomer B, from Step B (1.50 g, 5.99 mmol) in H2O (50 mL) and EtOH (42 mL) was added sodium hydrosulfite (ca. 85%; 4.91 g, 24 mmol). The reaction mixture was stirred at ambient temperature for 1 h, then 3 N hydrochloric acid (14 mL, 42 mmol) was added and the solution was heated to 100° C. for 3 h. The cooled mixture was adjusted to pH 8 with saturated aqueous NaHCO3, then extracted with CH2Cl2 (6×200 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=175 (M+1).

reactant | ethyl (4-nitro-2,3-dihydro-1H-indol-3-yl)acetate | [N+](=O)([O-])C1=C2C(CNC2=CC=C1)CC(=O)OCC | C12H14N2O4
reactant | sodium hydrosulfite | 24 mmol, 4.91 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 42 mmol, 3 N, 14 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 50 mL | O | H2O
solvent | EtOH | 42 mL | CCO | C2H6O
product | 1,2,2a,5-Tetrahydropyrrolo[4,3,2-de]quinolin-4(3H)-one | N1CC2CC(NC=3C=CC=C1C23)=O | C10H10N2O
